US06316415B1
A solution of 3-(1, 2, 3, 4-tetrahydro-1-oxo-isoquinoline-2-yl)-acetamino-5-benzenesulfonylamino-4-hydroxy-pentanoic acid, tert-butyl ester (0.44 g, 0.48 mMol) and 15 mL of trifluoroacetic acid in 15 mL of dichloromethane was stirred at room temperature for 1 hour. The solution was concentrated under reduced pressure. Crystallization from dichloromethane/ether/hexane gave 0.17 g of 3-(1,2,3,4-tetrahydro-1-oxo-isoquinoline-2-yl)-acetamino-5-benzenesulfonylamino-4-oxo-pentanoic acid.

reactant | 3-(1, 2, 3, 4-tetrahydro-1-oxo-isoquinoline-2-yl)-acetamino-5-benzenesulfonylamino-4-hydroxy-pentanoic acid, tert-butyl ester | 0.48 mMol, 0.44 g | O=C1N(CCC2=CC=CC=C12)C(C(C(=O)OC(C)(C)C)NC(=O)C)C(CNS(=O)(=O)C1=CC=CC=C1)O | C26H33N3O7S
reactant | trifluoroacetic acid | 15 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 3-(1,2,3,4-tetrahydro-1-oxo-isoquinoline-2-yl)-acetamino-5-benzenesulfonylamino-4-oxo-pentanoic acid | 0.17 g | O=C1N(CCC2=CC=CC=C12)C(C(C(=O)O)NC(=O)C)C(CNS(=O)(=O)C1=CC=CC=C1)=O | C22H23N3O7S
